US07169780B2
Step 5: Methyl 5-(benzoyloxy)-2-[4-(tert-butoxycarbonyl)-2-methylpiperazin-2-yl]-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate
1-Benzyl 4-tert-butyl 2-[5-(benzoyloxy)-4-(methoxycarbonyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl]-2-methylpiperazine-1,4-dicarboxylate was dissolved in AcOEt (20 ml/mmol) and hydrogenated at atm pressure on 10% (w/w) Pd/C over night. After filtration of the catalyst, solvent was evaporated to give crude product.

reactant | 1-Benzyl 4-tert-butyl 2-[5-(benzoyloxy)-4-(methoxycarbonyl)-1-methyl-6-oxo-1,6-dihydropyrimidin-2-yl]-2-methylpiperazine-1,4-dicarboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C(N(C1=O)C)C1(N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OCC1=CC=CC=C1)C)C(=O)OC | C32H36N4O9
solvent | AcOEt | CCOC(=O)C | C4H8O2
solvent | Pd/C | [Pd] | Pd
product | Methyl 5-(benzoyloxy)-2-[4-(tert-butoxycarbonyl)-2-methylpiperazin-2-yl]-1-methyl-6-oxo-1,6-dihydropyrimidine-4-carboxylate | C(C1=CC=CC=C1)(=O)OC1=C(N=C(N(C1=O)C)C1(NCCN(C1)C(=O)OC(C)(C)C)C)C(=O)OC | C24H30N4O7
